US04310467
To a solution of 1.80 g (6.0 mmol) (Z)-pregna-5,17(20)-dien-3β-ol in 8 ml of pyridine under a nitrogen atmosphere was added 1.26 g (6.6 mmol) of p-toluenesulfonyl chloride. Precipitation (pyridinium hydrochloride) began after 3 hr. After 19 hr., an additional 1.03 g (5.4 mmol) of p-toluenesulfonyl chloride was added. The reaction was left stirring for 5 days and then was poured into a stirred solution of 150 ml of 5% aqueous sodium bicarbonate cooled to 7°. After 30 min., the precipitate was removed by filtration, the filter cake washed with 2×15 ml of water and then dried over night to a vacuum dessicator (Drierite) at about 1 mm Hg to afford 2.50 g (92%) of crude product suitable for the next step. (Unstable to chromatography). An analytical sample was recrystallized from hexane to give (Z)-pregna-5,17(20)-dien-3β-ol-p-toluenesulfonate as white crystals, mp 119°-119.3°.

reactant | (Z)-pregna-5,17(20)-dien-3β-ol | 6.0 mmol, 1.80 g | C\C=C/1\CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C21H32O
reactant | p-toluenesulfonyl chloride | 6.6 mmol, 1.26 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 5.4 mmol, 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (Z)-pregna-5,17(20)-dien-3β-ol p-toluenesulfonate | C\C=C/1\CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O.CC=1C=CC(=CC1)S(=O)(=O)O | InChI=1S/C21H32O.C7H8O3S/c1-4-14-6-8-18-17-7-5-15-13-16(22)9-11-21(15,3)19(17)10-12-20(14,18)2;1-6-2-4-7(5-3-6)11(8,9)10/h4-5,16-19,22H,6-13H2,1-3H3;2-5H,1H3,(H,8,9,10)/b14-4-;/t16-,17-,18-,19-,20+,21-;/m0./s1
